US08476297B2
Step 2: 4-Nitrophenyl pyridin-2-ylcarbamate
To a solution of 2-aminopyridine (2.0 mL, 21.25 mmol) in DCM (35 mL) at 0° C. was added a solution of 4-nitrophenyl chloroformate (4.28 g, 21.25 mmol) in DCM (35 mL) and pyridine (1.73 mL, 21.25 mmol, anhydrous). After the addition was completed, the reaction mixture was stirred at RT for 16 h under an atmosphere of nitrogen. A white precipitated was observed and it was collected by filtration. The filtrate was washed with DCM (3×50 mL) to give the title compound as a white solid. MS (ESI, positive ion) m/z: 260 (M+H).

reactant | 2-aminopyridine | 21.25 mmol, 2.0 mL | NC1=NC=CC=C1 | C5H6N2
reactant | 4-nitrophenyl chloroformate | 21.25 mmol, 4.28 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 21.25 mmol, 1.73 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | 4-Nitrophenyl pyridin-2-ylcarbamate | N1=C(C=CC=C1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H9N3O4
